US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-4-yl)pyrimidin-2-yl]carbonyl]piperazine
In a mixed solvent of dimethoxyethane (10 ml) and methanol (10 ml), 1-[(5-bromopyrimidin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]piperazine (485 mg) and 4-pyridylboric acid (197 mg) were suspended at room temperature, followed by the successive addition of tetrakis(triphenylphosphine) palladium (0) (116 mg) and cesium fluoride (1.00 g). The resulting mixture was heated under reflux for 1 week. After the reaction mixture was cooled to room temperature, it was concentrated under reduced pressure. Dichloromethane and water were added to the concentrate to separate the organic layer. The organic layer thus obtained was dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (2% methanol—dichloromethane). The pale yellow crystals precipitated in ethanol were collected by filtration and dissolved in dichloromethane. To the resulting solution, 1N aqueous hydrochloride in ethanol was added and the resulting mixture was distilled under reduced pressure to remove the solvent. The yellow crystals precipitated in ethyl acetate were collected by filtration and dried, whereby the title compound (40%) was obtained.

reactant | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
reactant | 1-[(5-bromopyrimidin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]piperazine | 485 mg | BrC=1C=NC(=NC1)C(=O)N1CCN(CC1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl | C17H15BrClN5O3S
reactant | 4-pyridylboric acid | 197 mg | N1=CC=C(C=C1)OB(O)O | C5H6BNO3
reactant | cesium fluoride | 1.00 g | [F-].[Cs+]
catalyst | tetrakis(triphenylphosphine) palladium (0) | 116 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | 10 ml | CO | CH4O
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-4-yl)pyrimidin-2-yl]carbonyl]piperazine | 40% | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=NC=C(C=N1)C1=CC=NC=C1 | C22H19ClN6O3S
